US08207347B2
2-Methyl-4-methylamino-6-oxo-1-propyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester
A mixture of 4-chloro-2-methyl-6-oxo-1-propyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester (166 mg, 0.644 mmol), 8 M methylamine in ethanol (0.7 mL) and ethanol (1.3 mL) was heated under microwave irradiation at 150° C. for 10 min and concentrated in vacuo. It was partitioned between ethyl acetate (15 mL) and sat. Na2CO3 (2×3 mL), washed with brine, dried (MgSO4) and evaporated. Yield 108 mg, 66%. LC-MS (m/z) 253.4 (MH+); tR=1.06 (method C). 1H NMR (500 MHz, CDCl3): 0.97 (t, J=7.4 Hz, 3H, Me of Pr), 1.37 (t, J=7.1 Hz, 3H, Me of Et), 1.68 (sextet, J=7.7 Hz, 2H), 2.51 (s, 3H, Me), 2.78 (d, J=4.9 Hz, 3H Me-NH), 3.98 (br. t, 2H, CH2N), 4.33 (q, J=7.2 Hz, 2H, CH2 of Et), 5.46 (s, 1H, C5-H), 6.43 (br., 1H, NH-Me).

reactant | 4-chloro-2-methyl-6-oxo-1-propyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester | 0.644 mmol, 166 mg | C(C)OC(=O)C1=C(N(C(C=C1Cl)=O)CCC)C | C12H16ClNO3
reactant | methylamine | 8 M | CN | CH5N
solvent | ethanol | 0.7 mL | C(C)O | C2H6O
solvent | ethanol | 1.3 mL | C(C)O | C2H6O
product | 2-Methyl-4-methylamino-6-oxo-1-propyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(C=C1NC)=O)CCC)C | C13H20N2O3
